US06518267B1
a) 4-(4-(Trifluoromethyl)phenoxy)benzoic Acid
Following the general procedure of J. Polym. Sci., Polym. Chem. Ed. (1980), 18(10), 3069-80, 4-hydroxybenzoic acid, 4-nitro-1-(trifluoromethyl)benzene, and sodium hydride in DMF were heated at 130° C. to afford the title compound.

reactant | 4-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 4-nitro-1-(trifluoromethyl)benzene | [N+](=O)([O-])C1=CC=C(C=C1)C(F)(F)F | C7H4F3NO2
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(4-(Trifluoromethyl)phenoxy)benzoic Acid | FC(C1=CC=C(OC2=CC=C(C(=O)O)C=C2)C=C1)(F)F | C14H9F3O3
